US04311827
Iso-butyraldehyde (11.1 g; 0.15 moles) was added slowly over a period of 1 hour to N-ethyl-2-hydroxyethylamine (13.3 g; 0.15 moles) at a temperature of 25°-30° C. Benzene (100 ml) was then added, and the resulting solution was heated to reflux. Continuous azeotropic distillation removed 2.8 ml of water. The benzene was then removed by vacuum distillation to give the desired 2-isopropyl-3-ethyl-1,3-oxazolidine as a yellow liquid.

reactant | Iso-butyraldehyde | 0.15 moles, 11.1 g | C(C(C)C)=O | C4H8O
reactant | N-ethyl-2-hydroxyethylamine | 0.15 moles, 13.3 g | C(C)NCCO | C4H11NO
solvent | Benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-isopropyl-3-ethyl-1,3-oxazolidine | C(C)(C)C1OCCN1CC | C8H17NO
